US07737164B2
2,3-dichloro-4′-(tetrahydropyranyloxy)chalcone (THP-4Al).
4′-Tetrahydropyranyloxy-acetophenone (1.98 g, 9.0 mmol),ii 2,3-dichlorobenzaldehyde (1.93 g, 11.0 mmol), EtOH (15 mL), and MeOH (15 mL) were combined in a 100 mL round bottom flask with a stir bar. After all of the reactants were dissolved, 50% (w/v) aq. NaOH (1.0 mL, 19 mmol) was added. The flask was stoppered and stirred at room temperature for 8 h. The resulting white precipitate was filtered, washed with EtOH (1 mL, 3×), and allowed to air dry to afford 2.95 g of THP-4Al as a white powder (87% yield). The product was used without further purification. TLC: Rf=0.40 (hexane/EtOAc 4:1); Melting point: 116-118° C.; 1H NMR: (300 MHz, Acetone-d6) δ 8.15, 7.18 (AA′XX′ peak, Jaa′=Jxx′=2.5, Jax=8.4, Jax′=0.4 Hz, 2H), 8.13 (d, J=16 Hz, 1H), 8.04 (dd, J=7.9, 1.4 Hz, 1H), 7.89 (d, J=16 Hz, 1H), 7.64 (dd, J=7.9, 1.4 Hz, 1H), 7.43 (t, J=7.9 Hz, 1H), 5.61 (t, J=3.0 Hz, 1H), 3.82 (ddd, J=11.5, 8.4, 2.6 Hz, 1H), 3.61 (dtd, J=11.5, 4.0, 1.3 Hz, 1H), 1.86 (m, 3H), 1.66 (m, 3H); 13C NMR: (75 MHz, DMSO-d6) δ 187.23, 161.54, 138.27, 136.06, 133.45, 132.73, 131.77, 131.48, 130.95, 128.36, 126.93, 126.31, 116.38, 96.22, 61.89, 30.14, 25.13, 18.67; IR (ATR): 2964, 1656, 1608, 1595, 1573, 1556, 1507, 1455, 1425, 1411, 1372, 1326, 1314, 1248, 1222, 1205, 1173, 1155, 1121, 1106, 1035, 1020, 961 cm−1; ESI-MS: expected, 376.1; observed, m/z 376.9 [M+H+].

reactant | 4′-Tetrahydropyranyloxy-acetophenone | 9.0 mmol, 1.98 g | O1C(CCCC1)OC1=CC=C(C=C1)C(C)=O | C13H16O3
reactant | 2,3-dichlorobenzaldehyde | 11.0 mmol, 1.93 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | EtOH | 15 mL | CCO | C2H6O
reactant | NaOH | 19 mmol, 1.0 mL | [OH-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | 2,3-dichloro-4′-(tetrahydropyranyloxy)chalcone | 87% yield | ClC1=C(C=CC=C1Cl)C=CC(=O)C1=CC=C(C=C1)OC1OCCCC1 | C20H18Cl2O3
